US04999359
4-(piperidin-1-yl)methyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridine
Prepared as Description No. 4, from 1.7 g (6.8 mmoles) of 4-(piperidin-1-yl)carbonyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridine and 600 mg (15.79 mmoles) of lithium aluminium hydride in 50 ml of dry THF.

reactant | 4-(piperidin-1-yl)carbonyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridine | 6.8 mmoles, 1.7 g | N1(CCCCC1)C(=O)C1NCCC2=C1C=CS2 | C13H18N2OS
reactant | lithium aluminium hydride | 15.79 mmoles, 600 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 4-(piperidin-1-yl)methyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridine | N1(CCCCC1)CC1NCCC2=C1C=CS2 | C13H20N2S
